** sch_path: /home/designer/shared/BASIC/current_generator/analog/DAC/schematics/non_overlap_gold.sch
.subckt non_overlap_gold AVDD AVSS i_sign i_signb sign signb
*.PININFO AVDD:B AVSS:B i_sign:B i_signb:B sign:B signb:B
x5 AVDD AVSS i_sign b a nand
x6 a sign AVDD AVSS inverter
x3 AVDD AVSS i_signb a b nand
x1 b signb AVDD AVSS inverter
.ends

* expanding   symbol:  nand.sym # of pins=5
** sym_path: /home/designer/shared/BASIC/current_generator/analog/DAC/schematics/nand.sym
** sch_path: /home/designer/shared/BASIC/current_generator/analog/DAC/schematics/nand.sch
.subckt nand VDD VSS A B Y
*.PININFO Y:O A:I VDD:B VSS:B B:I
MMN0 net1 B VSS VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MMP0 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MMN1 Y A net1 VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MMP1 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/designer/shared/BASIC/current_generator/analog/DAC/schematics/inverter.sym
** sch_path: /home/designer/shared/BASIC/current_generator/analog/DAC/schematics/inverter.sch
.subckt inverter A Y VDD VSS
*.PININFO Y:O A:I VDD:B VSS:B
MMN0 Y A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MMP0 Y A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends

